US07405210B2
Preparation 78: Piperidine-4-carboxylic acid methyl ester hydrochloride
To a cooled solution of anhydrous methanol (100 mL) was added acetyl chloride (7.1 mL, 0.1 mol) and the solution stirred for 75 min. Piperidine-4-carboxylic acid (150 mg, 1.16 mmol) was dissolved in the prepared solution (10 mL) and the reaction stirred for 16 h. The solvent was removed in vacuo to give the title compound as its hydrochloride salt. m/z (ES+)=144.12 [M+H]+.

reactant | acetyl chloride | 0.1 mol, 7.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | Piperidine-4-carboxylic acid | 1.16 mmol, 150 mg | N1CCC(CC1)C(=O)O | C6H11NO2
solvent | methanol | 100 mL | CO | CH4O
product | Piperidine-4-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1CCNCC1 | InChI=1S/C7H13NO2.ClH/c1-10-7(9)6-2-4-8-5-3-6;/h6,8H,2-5H2,1H3;1H
